US07732446B1
As described in Example 1, 94 mg of {4-[2-(4-benzyl-piperidin-1-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 114 mg (>100%) of 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-1-(4-benzyl-piperidin-1-yl)-ethanone hydrochloride. MS: APCI (M+H) calc'd for C26H31N3O3+H 434.5; found 434.2.

reactant | {4-[2-(4-benzyl-piperidin-1-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 94 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N1CCC(CC1)CC1=CC=CC=C1)=O | C31H39N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-1-(4-benzyl-piperidin-1-yl)-ethanone hydrochloride | 114 mg, >100% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N1CCC(CC1)CC1=CC=CC=C1 | InChI=1S/C26H31N3O3.ClH/c1-31-24-14-21-20(17-28-23(16-27)22(21)15-25(24)32-2)13-26(30)29-10-8-19(9-11-29)12-18-6-4-3-5-7-18;/h3-7,14-15,17,19H,8-13,16,27H2,1-2H3;1H
